US05852051
0.58 g (0.33 ml, 5 mmol) of chlorosulfonic acid in 10 ml of DCM was slowly added dropwise at 20° C. with cooling to a solution of 1.8 g (4.36 mmol) of D-phenylalanylproline (p-cyanobenzyl)amide hydrochloride and 1.68 g (13.0 mmol) of diisopropylethylamine in 20 ml of DCM. After stirring at room temperature for 30 min, the mixture was diluted to 100 ml with DCM and extracted initially with 2M HCl and then twice with 10 ml of water, and the organic phase was dried over magnesium sulfate and evaporated in a rotary evaporator. 2.0 g of N-hydroxysulfonyl-D-phenylalanylproline (p-cyanobenzyl)amide were obtained as crude product which was used for the next reaction without further purification.

reactant | chlorosulfonic acid | 5 mmol, 0.33 ml, 0.58 g | ClS(=O)(=O)O | ClHO3S
reactant | D-phenylalanylproline (p-cyanobenzyl)amide hydrochloride | 4.36 mmol, 1.8 g | Cl.C(#N)C1=CC=C(CNC([C@H]2N(CCC2)C([C@H](N)CC2=CC=CC=C2)=O)=O)C=C1
reactant | diisopropylethylamine | 13.0 mmol, 1.68 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | N-hydroxysulfonyl-D-phenylalanylproline (p-cyanobenzyl)amide | 2.0 g | C(#N)C1=CC=C(CNC([C@H]2N(CCC2)C([C@H](NS(=O)(=O)O)CC2=CC=CC=C2)=O)=O)C=C1 | C22H24N4O5S
